US04216320
2-(Bromomethyl)-6,7-dimethoxy-3-methoxy-quinoxaline
11.4 g (50 mmols) of 1,2-dimethoxy-4,5-dinitrobenzene are dissolved in 100 ml of glacial acetic acid and, after adding 0.6 g of 10% strength palladium-on-charcoal, hydrogenated under normal pressure; the temperature can rise to 60° C. during the hydrogenation. Consumption of hydrogen: 7,300 ml (100% of theory). The catalyst is filtered off and the filtrate is cooled, under nitrogen, to 5° to 10° C. Whilst stirring well, 9 g (55 mmols) of 1-bromo-2,3-butanedione are added dropwise at 10° C. The solution is stirred for 60 minutes, during which time the desired product starts to precipitate out. The reaction mixture is discharged into 300 ml of cold water and the mixture is stirred for 10 minutes. The product which has precipitated is filtered off, washed with water and dried in vacuo at 60° C.

reactant | 1,2-dimethoxy-4,5-dinitrobenzene | 50 mmols, 11.4 g | COC1=C(C=C(C(=C1)[N+](=O)[O-])[N+](=O)[O-])OC | C8H8N2O6
reactant | 1-bromo-2,3-butanedione | 55 mmols, 9 g | BrCC(C(C)=O)=O | C4H5BrO2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 2-(Bromomethyl)-6,7-dimethoxy-3-methoxy-quinoxaline | BrCC1=NC2=CC(=C(C=C2N=C1OC)OC)OC | C12H13BrN2O3
